US07262206B2
(3) 1-acetyl-5-propionyl-3-(ethoxy-phenyl-methylidene)-2-indolinone
Prepared from 5-propionyl-2-indolinone, acetic anhydride and triethyl orthobenzoate Rf=0.79 (silica gel, ethyl acetate/cyclohexane/methanol 9:9:2)

reactant | 5-propionyl-2-indolinone | C(CC)(=O)C=1C=C2CC(NC2=CC1)=O | C11H11NO2
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethyl orthobenzoate | CCOC(C1=CC=CC=C1)(OCC)OCC | C13H20O3
solvent | ethyl acetate cyclohexane methanol | C(C)(=O)OCC.C1CCCCC1.CO
product | 1-acetyl-5-propionyl-3-(ethoxy-phenyl-methylidene)-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)C(CC)=O)=C(C1=CC=CC=C1)OCC)=O | C22H21NO4
